US05962682
Analogously to Example 74, by condensing 4-(2-chloro-5-methoxy-phenoxy)-3-(2-hydroxy-ethoxy)-5-(4-methoxy-benzenesulphonylamino)-benzoic acid with aniline there was obtained 4-(2-chloro-5-methoxy-phenoxy)-3-(2-hydroxy-ethoxy)-5-(4-methoxy-benzenesulphonylamino)-N-phenyl-benzamide.

reactant | 4-(2-chloro-5-methoxy-phenoxy)-3-(2-hydroxy-ethoxy)-5-(4-methoxy-benzenesulphonylamino)-benzoic acid | ClC1=C(OC2=C(C=C(C(=O)O)C=C2NS(=O)(=O)C2=CC=C(C=C2)OC)OCCO)C=C(C=C1)OC | C23H22ClNO9S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-(2-chloro-5-methoxy-phenoxy)-3-(2-hydroxy-ethoxy)-5-(4-methoxy-benzenesulphonylamino)-N-phenyl-benzamide | ClC1=C(OC2=C(C=C(C(=O)NC3=CC=CC=C3)C=C2NS(=O)(=O)C2=CC=C(C=C2)OC)OCCO)C=C(C=C1)OC | C29H27ClN2O8S
